US05892091
Preparation of 4-Methoxyphenyl Chloroformate
The decarbonylation reaction was repeated in the manner as described in Example 70, except that the amount of tetraphenylphosphonium chloride was changed as set forth in Table 11, that the phenyl chloroglyoxylate was replaced with 1.396 mmol. of 4-methoxyphenyl chloroglyoxylate (4-MeO--PCG), and that the reaction temperature and reaction period were changed as set forth in Table 11. The results are also set forth in Table 11.

reactant | phenyl chloroglyoxylate | ClC(C(=O)OC1=CC=CC=C1)=O | C8H5ClO3
reactant | 4-methoxyphenyl chloroglyoxylate | ClC(C(=O)OC1=CC=C(C=C1)OC)=O | C9H7ClO4
catalyst | tetraphenylphosphonium chloride | [Cl-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-Methoxyphenyl Chloroformate | ClC(=O)OC1=CC=C(C=C1)OC | C8H7ClO3
